US04731361
To a solution of 7beta-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-pentenoyl]amino-3-chloro-2-cephem-4-carboxylic acid pivaloyloxymethyl ester (410 mg) in dichloromethane (3 ml) is added dropwise a solution of m-chloroperbenzoic acid (47.4 mg) in dichloromethane (1 ml) with stirring at 0° C. After stirring at the same temperature for 20 minutes, the reaction mixture is diluted with aqueous sodium hydrogen carbonate. The organic layer is separated, washed with water, dried, and concentrated. The resulting residue is purified by silica gel column chromatography to give 7beta-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-pentenoyl]amino-3-chloro-3-cephem-4-carboxylic acid 1-oxide pivaloyloxymethyl ester (135 mg) as crystals.

reactant | 7beta-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-pentenoyl]amino-3-chloro-2-cephem-4-carboxylic acid pivaloyloxymethyl ester | 410 mg | C(C(C)(C)C)(=O)OCOC(=O)C1C(=CS[C@H]2N1C([C@H]2NC(\C(=C/CC)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)Cl | C26H33ClN4O8S2
reactant | m-chloroperbenzoic acid | 47.4 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 7beta-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-pentenoyl]amino-3-chloro-3-cephem-4-carboxylic acid 1-oxide pivaloyloxymethyl ester | 135 mg | C(C(C)(C)C)(=O)OCOC(=O)C1=C(CS([C@H]2N1C([C@H]2NC(\C(=C/CC)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)=O)Cl | C26H33ClN4O9S2
